US06277872B1
a) Preparation of 5-[2-(2-bromoethyl)oxy-phenyl]-3-phenyl-1,2,4-oxadiazole
1.85 g of 5-(2-hydroxyphenyl)-3-phenyl-1,2,4-oxadiazole are dissolved in 80 ml of methylethylketone, mixed with 5 ml of 1,2-dibromoethane, 6 g of potassium carbonate and 0.1 g of potassium iodide. The mixture is refluxed for 12 hours and after cooling the precipitate is filtered off. The organic phase is evaporated down in vacuo and chromatographed on silica gel first with toluene, then with dichloromethane as eluant. Yield: 2.3 g (86% of theory).

reactant | 5-(2-hydroxyphenyl)-3-phenyl-1,2,4-oxadiazole | 1.85 g | OC1=C(C=CC=C1)C1=NC(=NO1)C1=CC=CC=C1 | C14H10N2O2
reactant | 1,2-dibromoethane | 5 ml | BrCCBr | C2H4Br2
reactant | potassium carbonate | 6 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.1 g | [I-].[K+]
solvent | methylethylketone | 80 ml | CC(=O)CC | C4H8O
product | 5-[2-(2-bromoethyl)oxy-phenyl]-3-phenyl-1,2,4-oxadiazole | BrCCOC1=C(C=CC=C1)C1=NC(=NO1)C1=CC=CC=C1 | C16H13BrN2O2
